US08685980B2
Following General Procedure G, 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 0.230 mmol) and morpholine-4-carbonyl chloride (38 mg, 0.690 mmol) gave 7-cyclopentyl-2-{5-[4-(morpholine-4-carbonyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (80 mg, 62%). MS (ESI) m/z 548.3 (M+H)+

reactant | 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.230 mmol, 100 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N1C1CCCC1)C | C23H30N8O
reactant | morpholine-4-carbonyl chloride | 0.690 mmol, 38 mg | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | 7-cyclopentyl-2-{5-[4-(morpholine-4-carbonyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 80 mg, 62% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C(=O)N2CCOCC2)N1C1CCCC1)C | C28H37N9O3
